US07858632B2
A solution of 5-Methoxy-3-methyl-6-trifluoromethyl-1H-indole (900 mg, 4 mmol) in 7 ml DMF was cooled to zero degrees C, and sodium hydride (104 mg, 4 mmol, 95% powder) was added. The reaction mixture was stirred 15 minutes at zero degrees C, and then iodomethane (270 ul, 4 mmol) was added. The reaction mixture was stirred for 1 hour and allowed to warm to room temperature. The reaction mixture was then cooled to 0° C., quenched by adddition of 1 N NH4Cl, diluted with water, and extracted with EtOAc. The combined organic layers were washed with water, brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give 5-Methoxy-1,3-dimethyl-6-trifluoromethyl-1H-indole (725 mg, 75% ) as a solid.

reactant | 5-Methoxy-3-methyl-6-trifluoromethyl-1H-indole | 4 mmol, 900 mg | COC=1C=C2C(=CNC2=CC1C(F)(F)F)C | C11H10F3NO
reactant | sodium hydride | 4 mmol, 104 mg | [H-].[Na+]
reactant | iodomethane | 4 mmol, 270 ul | IC | CH3I
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 5-Methoxy-1,3-dimethyl-6-trifluoromethyl-1H-indole | 725 mg, 75% | COC=1C=C2C(=CN(C2=CC1C(F)(F)F)C)C | C12H12F3NO
